.subckt OR3_1X A B C Y VDD VSS VNW VPW
MP1 VDD A W1 VNW p m=1 L=180n W=1800n
MP2 W1  B W2 VNW p m=1 L=180n W=1800n
MP3 W2  C YB VNW p m=1 L=180n W=1800n
MN1 VSS A YB VPW n m=1 L=180n W=1200n
MN2 VSS B YB VPW n m=1 L=180n W=1200n
MN3 VSS C YB VPW n m=1 L=180n W=1200n
MP4 VDD YB Y VNW p m=1 L=180n W=1800n
MN4 VSS YB Y VPW n m=1 L=180n W=1200n
.ends
